Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Assault
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ found down in ___ s/p assault, intubated in ED as
he was extremely combative on arrival and subsequently
pan-scanned ___ patient's inability to participate in exam. Head
CT revealed bilateral zygomatic arch deformity and left-sided
nasal bone fracture; pan scanning revealed no other injuries.
Presently denying headaches or nausea. Endorses blurry vision 
out
of the left eye ___ swelling. Of note the patient reports 
history
of facial fractures in the past from playing football.
 
Past Medical History:
PMH: none
PSH: none
NKDA

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS:  97.8  62  120/72  18  100%ra
Gen: awake, alert, in no acute distress
HEENT: Swelling/ecchymosis about left > right orbit, moderate 
ecchymoses. Slight right deviation of nose Able to open right 
eye, left eye more difficult to open due to swelling. Left eye 
with subconjunctival hemorrhage. No weakness of muscles of 
facial expression noted. EOMI without pain. No rhinorrhea. Able 
to open mouth fully without pain or impingement. No pain to 
palpation over zygoma. 
CV: RRR
Pulm: CTAB
GI: Soft, NTND
Neurp: CN II-XII intact bilaterally, ___ strength in all 
extremities bilaterally, sensation intact throughout
 
Pertinent Results:
___ 07:30AM BLOOD WBC-7.5 RBC-4.89 Hgb-14.0 Hct-42.5 MCV-87 
MCH-28.6 MCHC-32.9 RDW-13.6 RDWSD-43.6 Plt ___
___ 07:30AM BLOOD Glucose-95 UreaN-17 Creat-1.1 Na-142 
K-3.9 Cl-106 HCO3-26 AnGap-14
___ 02:30AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CT Max/face (___)

IMPRESSION

IMPRESSION:
 
1. Soft tissue swelling over left orbit.  Intact globes and bony 
orbits.
2. No change in nondisplaced left nasal bone fracture.
3. Irregular buckling of the left greater than right bilateral 
zygomatic
arches, may represent posttraumatic deformation without a 
discrete fracture
line.
 
Brief Hospital Course:
Mr. ___ presented after an assault and suffered a left nasal 
bone fracture and bilateraly zygomatic arch deformation without 
fracture. He was seen by plastic surgery who determined his 
injuries to be nonoperative and asked him to followup as an 
outpatient. He was also seen by opthalmology due to significant 
eye swelling and was found to have no discrete injuries so was 
asked to follow up as an outpatient with them as well. He was 
discharged home with these followup instructions as well as on 
sinus precautions.  
 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral Zygomatic arch deformation without discrete fracture 
line
Left nasal bone fracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___

___ were admitted to ___ after suffering bone fractures in 
your left nose and bone deformations in your cheek area due to 
assault. ___ were seen by the Plastic Surgery Team who said 
there is nothing operative to do for these fractures. ___ will 
follow up with them as an outpatient in 1 week. ___ were also 
seen by the Opthalmology Team who recommend that ___ follow up 
in ___ weeks as an outpatient to ensure that your vision remains 
intact. 

In the meantime, it is important that ___:
•Do not blow your nose—use nasal saline spray as needed.
•Sneeze with your mouth open, do not hold your sneeze in.
•Do not lift heavy objects or bend over.
•Use sinus decongestants as directed by your physician

___ to take pain medications as prescribed. 

 
Followup Instructions:
___